US07169925B2
Step F4: 3-(Pyridin-4-ylamino)-1H-indole-2-carboxylic acid diethylcarbamoylmethyl ester
Stir at 50° C. for 10 min. a mixture of 3-(4-pyridinylamino)-1H-indole-2-carboxylic acid (2.0 g, 8 mmol), KI (10 mg) and Cs2CO3 (2.8 g, 8.6 mmol) in DMF (125 mL). Allow to cool to ambient temperature and then cool in an ice bath. Add 2-chloro-N,N-diethylacetamide (1.077 g, 0.9 mmol) and allow to warm to ambient temperature. Add a brine solution to the reaction and extract with EtOAc (3×). Wash the extract with brine and water, dry (MgSO4), filter and concentrate under vacuum to give a semi-solid. Flash chromatograph over silica gel eluting first with EtOAc and 10% MeOH/EtOAc and obtain 0.317 g the title compound as a solid: MS 367(M+H); HPLC: Rt=4.75 min. (95/5/0.1 (A) 5/95/0.1 (B) Water/CAN/Formic Acid YMC ODS-A 2×50 mm 1 mL/min Gradient Composition: 100% A for 0.1 min Linear Gradient to 100% B at 2 min Hold until 3.5 min).

reactant | 3-(4-pyridinylamino)-1H-indole-2-carboxylic acid | 8 mmol, 2.0 g | N1=CC=C(C=C1)NC1=C(NC2=CC=CC=C12)C(=O)O | C14H11N3O2
reactant | Cs2CO3 | 8.6 mmol, 2.8 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-chloro-N,N-diethylacetamide | 0.9 mmol, 1.077 g | ClCC(=O)N(CC)CC | C6H12ClNO
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 125 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
solvent | MeOH EtOAc | CO.CCOC(=O)C
product | 3-(Pyridin-4-ylamino)-1H-indole-2-carboxylic acid diethylcarbamoylmethyl ester | 0.317 g | C(C)N(C(=O)COC(=O)C=1NC2=CC=CC=C2C1NC1=CC=NC=C1)CC | C20H22N4O3
